US08133907B2
(4R,5S)-4-(2-Fluoro-benzyl)-2,2-dimethyl-5-(3-cyclopropylcarbamoyl-pyridin-2-ylmethyl)-oxazolidine-3-carboxylic acid tert-butyl ester
Using general reaction procedure 5 with 2-[(4R,5S)-3-tert-butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid (0.3 g, 0.67 mmol) and cyclopropylamine (0.23 mL, 3.4 mmol) gives the title compound.

reactant | 2-[(4R,5S)-3-tert-butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid | 0.67 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@H]1CC1=C(C=CC=C1)F)CC1=C(C(=O)O)C=CC=N1)(C)C | C24H29FN2O5
reactant | cyclopropylamine | 3.4 mmol, 0.23 mL | C1(CC1)N | C3H7N
product | (4R,5S)-4-(2-Fluoro-benzyl)-2,2-dimethyl-5-(3-cyclopropylcarbamoyl-pyridin-2-ylmethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@H]1CC1=C(C=CC=C1)F)CC1=NC=CC=C1C(NC1CC1)=O)(C)C | C27H34FN3O4
